* source CHEBISHEV
V_V1         V- 0 DC -15V  
V_V2         V+ 0 DC +15V  
V_V3         N00371 0  AC 1V 
R_R1         N00371 N00403 RMOD 6.34k
R_R2         0 N00403 RMOD 93.1
R_R3         N00729 N00652 RMOD 18.2k
R_R4         N00884 N00729 RMOD 6.34k
R_R5         N00884 0 RMOD 110
R_R6         N00933 OUT RMOD 22.1k
C_C1         N00403 N00652 CMOD 10n 
C_C2         N00884 N00933 CMOD 10n 
C_C3         N00403 N00729 CMOD 10n 
C_C4         N00884 OUT CMOD 10n 
X_U1A         0 N00652 V+ V- N00729 LT1013/LT
X_U1B         0 N00933 V+ V- OUT LT1013/LT
