* source RC
C_C1         0 OUT  1n  TC=0,0 
R_R1         IN OUT  1k TC=0,0 
V_V1         IN N00223 DC 0Vdc AC 1V 
V_V2         N00223 0   STIMULUS=sinRC
