* source AMPLIF
V_Vcc         VCC 0 DC 10V  
R_Rb1         N00372 VCC  10k TC=0,0 
R_Rc         N00232 VCC  1k TC=0,0 
R_RL         0 OUT  1k TC=0,0 
R_Rb2         0 N00372 Rbmod 720
Q_Q1         N00232 N00372 0 Q2N2222
C_Cin         N00365 N00372  1u  TC=0,0 
C_Cout         N00232 OUT  1u  TC=0,0 
V_Vin         N00365 0 DC 0Vdc AC 1V 
