* source LAB2
R_R2         MID VCC  3.3k TC=0,0 
R_R3         0 MID  3.3k TC=0,0 
R_R4         0 OUT  5.5k TC=0,0 
C_C1         MID OUT  0.47u  TC=0,0 
D_D1         MID VCC D1N3940 
D_D2         0 ICB D1N3940 
R_R1         IN MID  1k TC=0,0 
V_V1         VCC 0 5V
V_PRINT1         MID ICB 0V
         
.PRINT        DC I(V_PRINT1) 
          
.PRINT         DC V([MID]) 
          
.PRINT         DC V([0],[ICB]) 
V_V2         N04672 0   STIMULUS=Sin
V_Vin         IN N04672 DC 0Vdc AC 1V 
