* source LAB4
R_R1         IN MID  {R1Val} TC=0,0 
R_R2         MID VCC  3.3k TC=0,0 
R_R3         0 MID  3.3k TC=0,0 
R_R4         0 OUT  5.6k TC=0,0 
C_C1         MID OUT  0.47u  TC=0,0 
D_D1         MID VCC D1N3940 
D_D2         0 MID D1N3940 
V_V1         VCC 0 5V
V_V2         IN N00810 DC 0Vdc AC 1V 
V_V3         N00810 0   STIMULUS=SIN
.PARAM  r1val=1k
