* source MULTIVIBR
Q_Q1         N00210 N00306 N00214 Q2N2222
Q_Q2         N00287 N00232 N00302 Q2N2222
R_R1         N00210 N00237  1k TC=0,0 
R_R2         N00232 N00237  100k TC=0,0 
R_R3         N00306 N00237  100k TC=0,0 
R_R4         N00287 N00237  1k TC=0,0 
R_R5         0 N00214  750 TC=0,0 
R_R6         0 N00302  750 TC=0,0 
C_C1         N00210 N00232  0.01u  TC=0,0 
C_C2         N00306 N00287  0.01u  TC=0,0 
V_V1         N00237 0 10V
.IC         V(N00210 )=4.851
