* source TEST
I_I1         0 N00174 DC 1  
R_R0         0 N00174  1 TC=0,0 
R_R1         N00201 N00174  1 TC=0,0 
G_G1         N00201 0 N01234 N00174 1
R_R3         0 N00201  1 TC=0,0 
L_L1         0 N00174  1  
C_C1         N00174 N01234  1  TC=0,0 
R_R2         0 N01234  1 TC=0,0 
