* source TRAN
Q_Q1         N00148 N00105 0 Q2N2222A
V_VB         N00105 0 0.5V
V_VC         N00148 0 10V
V_VB1         0 N00411 0.5V
V_VC1         0 N00377 10V
V_VB2         N00645 0 0.5V
V_VC2         N00615 0 10V
Q_Q6         N00377 N00411 0 Q2N2907A
Q_Q7         N00615 N00645 0 Q2N3904
Q_Q8         N01361 N01391 0 Q2N3906
V_VC3         0 N01361 10V
V_VB3         0 N01391 0.5V
V_V1         N01557 0 10V
D_D1         N01557 0 D1N4148 
