* source ZAVD1
R_R8         N01391 0  1k TC=0,0 
R_R7         N01391 N01375  1k TC=0,0 
R_R5         N01365 N01375  1k TC=0,0 
V_V2         N01365 0 12V
R_R6         0 N01375  2k TC=0,0 
