* source MKR
R_R0         0 N00151  1 TC=0,0 
R_R1         0 N00151  1 TC=0,0 
I_I1         0 N00151 DC 1  
C_C1         N00151 N00237  1  TC=0,0 
G_G1         0 N00237 N00237 N00151 -1
L_L1         0 N00237  1H  
R_R2         N00237 0  1 TC=0,0 
